US09145380B2
a) Toluene-4-sulfonic acid pyridine-2-ylmethyl ester
Powdered KOH (1.74 g, 30.65 mmol) was added to a vigorously stirred solution of pyridin-2-yl-methanol (2 mL, 20.72 mmol) in THF (100 mL) at 0° C. The reaction mixture was stirred for 15 minutes and tosyl chloride (5.13 g, 26.90 mmol) was then added. The reaction mixture was allowed to warm to RT and stirring was continued overnight. The reaction mixture was quenched with saturated NaHCO3 and the product was extracted with EtOAc (3×50 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo to give a yellow oil. The residue was purified by flash column chromatography using EtOAc: hexane (1:4) to yield the title compound (4.6 g, 85%) as a yellowish solid.

reactant | KOH | 30.65 mmol, 1.74 g | [OH-].[K+]
reactant | pyridin-2-yl-methanol | 20.72 mmol, 2 mL | N1=C(C=CC=C1)CO | C6H7NO
reactant | tosyl chloride | 26.90 mmol, 5.13 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Toluene-4-sulfonic acid pyridine-2-ylmethyl ester | 4.6 g, 85% | N1=C(C=CC=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H13NO3S
